US08022206B2
7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-piperidin-4-yl-furo[3,2-c]pyridin-6-ylamine
A solution of 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine (5.00 mg, 0.0118 mmol) in EtOAc (2 mL) with palladium (0.53 mg, 0.0050 mmol) on carbon was sealed and flushed with a nitrogen balloon at rt. The nitrogen balloon was replaced with a hydrogen balloon, and the mixture was allowed to stir for 1 h. The hydrogen balloon was removed and replaced with the nitrogen balloon to flush out all hydrogen gas. The palladium was filtered off, and the product was loaded onto a preparatory TLC plate, eluting with 10% (7 N NH3 in MeOH) in DCM to afford the title compound as a yellow solid. 1H NMR (CD3OD, 400 MHz): δ=1.62 (br, s, 2H), 1.83 (d, J=6.8 Hz, 3H), 2.09-2.22 (m, 2H), 2.70-2.85 (m, 3H), 3.11 (br, s, 2H), 6.50-6.57 (m, 1H), 7.10 (t, J=8.5 Hz, 1H), 7.24 (s, 1H), 7.31 (dd, J=9.1, 4.8 Hz, 1H), 7.95 (s, 1H).

reactant | 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine | 0.0118 mmol, 5.00 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
catalyst | palladium | 0.0050 mmol, 0.53 mg | [Pd] | Pd
product | 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-piperidin-4-yl-furo[3,2-c]pyridin-6-ylamine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C2CCNCC2 | C20H20Cl2FN3O2
